US07825119B2
Synthesis of 2-[1-(2-tert-butyl-6-chloro-5-methyl-pyrimidin-4-yl)-piperidin-4-yl]-[1,8]naphthyridine:
20 ml of dimethylacetamide and 5 ml (17.8 mmoles) of diisopropylethylamine are added into a single-necked flask containing 1.5 g (6.84 mmoles) of 2-tert-butyl-4,6-dichloro-5-methyl-pyrimidine and 1.46 g (6.84 mmoles) of 2-piperidin-4-yl-[1,8]naphthyridine. This mixture is heated at 100° C. overnight. The next day 0.2 equivalent of naphthyridine is added and the mixture is heated for another 6 hours. The reaction mixture is returned to ambient temperature before concentrating to dryness. The residue obtained is taken up in a mixture of water, ethyl acetate and a saturated solution of sodium bicarbonate. The organic phase is separated and the aqueous phase reextracted with ethyl acetate. The collected organic phases are dried over magnesium sulphate then the solvent is evaporated off under reduced pressure (2 kPa). The residue is chromatographed on silica gel eluting with a gradient of heptane-ethyl acetate (70-30) to heptane-ethyl acetate (50-50). 1.77 g of expected product is obtained.

reactant | diisopropylethylamine | 17.8 mmoles, 5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-tert-butyl-4,6-dichloro-5-methyl-pyrimidine | 6.84 mmoles, 1.5 g | C(C)(C)(C)C1=NC(=C(C(=N1)Cl)C)Cl | C9H12Cl2N2
reactant | 2-piperidin-4-yl-[1,8]naphthyridine | 6.84 mmoles, 1.46 g | N1CCC(CC1)C1=NC2=NC=CC=C2C=C1 | C13H15N3
reactant | naphthyridine | 0.2 equivalent | N1=CC=CC2=CC=CN=C12 | C8H6N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 2-[1-(2-tert-butyl-6-chloro-5-methyl-pyrimidin-4-yl)-piperidin-4-yl]-[1,8]naphthyridine | 1.77 g | C(C)(C)(C)C1=NC(=C(C(=N1)N1CCC(CC1)C1=NC2=NC=CC=C2C=C1)C)Cl | C22H26ClN5
